US07781426B2
Stet D: (trans-4-{[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-isopropenylpyridin-3-yl](ethyl)amino]methyl}cyclohexyl)acetic acid
Aqueous potassium hydroxide (4N, 100 μL) was added to a stirred solution of ethyl (trans-4-{[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-isopropenylpyridin-3-yl](ethyl)amino]methyl}cyclohexyl)acetate (7.3 mg, 0.0109 mmol) in EtOH (0.9 mL) and water (0.35 mL) at room temperature. After 8 h the reaction was acidified to pH 5 with 1 N HCl and then diluted with brine (10 mL). The mixture was extracted with EtOAc (3×20 mL) and the combined extracts were dried (Na2SO4) and concentrated in vacuo to afford the crude product. This was purified by flash chromatography (Si, 12×160 mm, 1% AcOH, 0-65% EtOAc in hexanes gradient) to afford (trans)-4-{[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)pyridin-3-yl](ethyl)amino]methyl}cyclohexyl)acetic acid. Rf=0.59 (1% AcOH, 1:2 EtOAc/hexanes). LCMS calc.=642.3; found=642.2 (M+1)+. 1H NMR (500 MHz, CDCl3): δ 7.87 (s, 1H); 7.78 (s, 2 H); 7.40 (s, 2 H); 5.85 (s, 1 H); 5.75 (d, J=8.6 Hz, 1 H); 5.25 (s, 1 H); 4.97 (d, J=16.7 Hz, 1 H); 4.43-4.35 (m, 2 H); 2.98-2.90 (m, 2 H); 2.84 (dd, J=8.5, 12.9 Hz, 1 H); 2.76 (dd, J=7.4, 12.9 Hz, 1 H); 2.20 (br s, 5 H); 1.80-1.64 (m, 5 H); 1.35-1.24 (m, 1 H); 0.99 (t, J=7.0 Hz, 3 H); 0.95-0.83 (m, 4 H); 0.72 (d, J=6.6 Hz, 3 H).

reactant | potassium hydroxide | 4N, 100 μL | [OH-].[K+]
reactant | ethyl (trans-4-{[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-isopropenylpyridin-3-yl](ethyl)amino]methyl}cyclohexyl)acetate | 0.0109 mmol, 7.3 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=NC(=CC=C1N(CC)C[C@@H]1CC[C@H](CC1)CC(=O)OCC)C(=C)C)C)(F)F | C34H41F6N3O4
reactant | HCl | 1 N | Cl | ClH
reactant | AcOH | CC(=O)O | C2H4O2
solvent | EtOH | 0.9 mL | CCO | C2H6O
solvent | water | 0.35 mL | O | H2O
solvent | brine | 10 mL | [Cl-].[Na+].O
product | (trans-4-{[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-isopropenylpyridin-3-yl](ethyl)amino]methyl}cyclohexyl)acetic acid | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=NC(=CC=C1N(CC)C[C@@H]1CC[C@H](CC1)CC(=O)O)C(=C)C)C)(F)F | C32H37F6N3O4
